US08039450B2
A solution of 3-hydroxy-4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzonitrile (0.500 g, 1.87 mmol), cyclopentyl iodide (0.65 mL, 5.61 mmol), and N,N-dimethylformamide (30 mL) under a nitrogen balloon was cooled to 0° C. on an ice water bath. Sodium hydride (0.224 g, 5.61 mmol) was added and then the reaction was stirred for 5 minutes on the ice water bath. The reaction was then stirred at room temperature for 2 hours. More cyclopentyl iodide (0.22 mL, 1.87 mmol) was added and the reaction was cooled to 0° C. on an ice water bath. Sodium hydride was added (0.075 g, 1.87 mmol) and the reaction was stirred at 0° C. for 5 minutes. The reaction was then stirred at room temperature for another 2 hours. Water was added to quench excess sodium hydride and the reaction was then neutralized using 1 M HCl. Water was added and the solution was extracted using ethyl acetate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate, and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give 3-(cyclopentyloxy)-4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzonitrile (0.396 g, 63% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.25 (m, 2H), 1.38 (m, 2H), 1.50 (m, 2H), 1.73 (m, 2H), 4.86 (m, 2H), 6.84 (s, 1H), 6.87 (d, J=8.2 Hz, 1H), 7.18 (d, J=8.2 Hz, 1H), 7.40 (d, J=8.4 Hz, 1H), 7.58 (s, 1H), 7.64 (d, J=8.0 Hz, 1H), 9.06 (s, 1H).

reactant | 3-hydroxy-4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzonitrile | 1.87 mmol, 0.500 g | OC=1C=C(C#N)C=CC1OC1=CC2=C(B(OC2)O)C=C1 | C14H10BNO4
reactant | cyclopentyl iodide | 5.61 mmol, 0.65 mL | C1(CCCC1)I | C5H9I
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | Sodium hydride | 5.61 mmol, 0.224 g | [H-].[Na+]
reactant | cyclopentyl iodide | 1.87 mmol, 0.22 mL | C1(CCCC1)I | C5H9I
solvent | Water | O | H2O
product | 3-(cyclopentyloxy)-4-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)benzonitrile | 0.396 g, 63% yield | C1(CCCC1)OC=1C=C(C#N)C=CC1OC1=CC2=C(B(OC2)O)C=C1 | C19H18BNO4
